US04182776
p-{[2-(2,4-Dichlorophenoxy)ethyl]amino}benzoic acid
A solution of 15 g of ethyl p-{[2-(2,4-dichlorophenoxy)ethyl]amino}benzoate and 15 g of potassium hydroxide in 200 ml. of 95% ethanol is refluxed for 3 hours. The solution is cooled, diluted with water, acidified with concentrated hydrochloric acid and filtered. The solid is recrystallized from ethanol to give crystals, mp 203°-205° C.

reactant | ethyl p-{[2-(2,4-dichlorophenoxy)ethyl]amino}benzoate | 15 g | ClC1=C(OCCNC2=CC=C(C(=O)OCC)C=C2)C=CC(=C1)Cl | C17H17Cl2NO3
reactant | potassium hydroxide | 15 g | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | p-{[2-(2,4-Dichlorophenoxy)ethyl]amino}benzoic acid | ClC1=C(OCCNC2=CC=C(C(=O)O)C=C2)C=CC(=C1)Cl | C15H13Cl2NO3
